US05624961
Synthesis of N-{3-hydroxy-6-(2-hydroxyethoxy)-2,4,5-trimethylbenzyl}-N-methyl-2-(2-isopropyl-5-methylphenoxy)ethylamine
Triethylamine (2.1 ml) was added dropwise to a solution of 3-hydroxy-6-(2-hydroxyethoxy)-2,4,5-trimethylbenzyl chloride (2.45 g) and N-methyl-2-(2-isopropyl-5-methylphenoxy)ethylamine (2.07 g) in N,N-dimethylformamide (30 ml), and the mixture was stirred at room temperature for 16 hours. The reaction mixture was poured on ice water and extracted with ethyl acetate. The obtained extract was purified by silica gel column chromatography (eluent; ethyl acetate/benzene=1/1) and recrystallized from methanol-water to give 2.51 g of the title compound (colorless needle crystals).

reactant | Triethylamine | 2.1 ml | C(C)N(CC)CC | C6H15N
reactant | 3-hydroxy-6-(2-hydroxyethoxy)-2,4,5-trimethylbenzyl chloride | 2.45 g | OC=1C(=C(CCl)C(=C(C1C)C)OCCO)C | C12H17ClO3
reactant | N-methyl-2-(2-isopropyl-5-methylphenoxy)ethylamine | 2.07 g | CNCCOC1=C(C=CC(=C1)C)C(C)C | C13H21NO
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | N-{3-hydroxy-6-(2-hydroxyethoxy)-2,4,5-trimethylbenzyl}-N-methyl-2-(2-isopropyl-5-methylphenoxy)ethylamine | 2.51 g | OC=1C(=C(CN(C)CCOC2=C(C=CC(=C2)C)C(C)C)C(=C(C1C)C)OCCO)C | C25H37NO4
